US04661515
To a solution containing 5.2 g (8.7 mmol) of N-[3-[2,3-dichloro-4-(2-methylene-1-oxobutyl)phenoxy]acetylthio-2-methylpropanoyl]-N-cyclopentyl glycine t-butyl ester in 100 ml of methylene chloride was added 9.0 ml (117 mmol) of trifluoroacetic acid. After 12 hours the reaction mixture was carefully concentrated in vacuo and the residue was chromatographed via HPLC [methylene chloride/ether/acetic acid (88/10/2.5)]to afford 2.4 g (52%) of N-[3-[2,3-dichloro-4-(2-methylene-1-oxobutyl) phenoxy] acetylthio-2methylpropanoyl]-N-cyclopentyl glycine as a glass.

reactant | N-[3-[2,3-dichloro-4-(2-methylene-1-oxobutyl)phenoxy]acetylthio-2-methylpropanoyl]-N-cyclopentyl glycine t-butyl ester | 8.7 mmol, 5.2 g | C(C)(C)(C)OC(CN(C1CCCC1)C(C(CSC(COC1=C(C(=C(C=C1)C(C(CC)=C)=O)Cl)Cl)=O)C)=O)=O | C28H37Cl2NO6S
reactant | trifluoroacetic acid | 117 mmol, 9.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[3-[2,3-dichloro-4-(2-methylene-1-oxobutyl) phenoxy] acetylthio-2methylpropanoyl]-N-cyclopentyl glycine | 2.4 g, 52% | ClC1=C(OCC(=O)SCC(C(=O)N(CC(=O)O)C2CCCC2)C)C=CC(=C1Cl)C(C(CC)=C)=O | C24H29Cl2NO6S
